US05519016
In 100 ml of methanol was dissolved 2.4 g (0.0086 mole) of 1-t-butoxycarbonyl-3-hydroxy-4-phenylaminopyrrolidine obtained as described above, and 30 ml of 6N hydrochloric acid was added thereto. After the mixture was refluxed by heating for 2.5 hours, the solvent was removed under reduced pressure. The resulting residue was washed with ethanol and ether to obtain 1.52 g of 3-hydroxy-4-phenylaminopyrrolidine hydrochloride as light brown powder.

reactant | 1-t-butoxycarbonyl-3-hydroxy-4-phenylaminopyrrolidine | 0.0086 mole, 2.4 g | C(C)(C)(C)OC(=O)N1CC(C(C1)NC1=CC=CC=C1)O | C15H22N2O3
reactant | hydrochloric acid | 6N, 30 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 3-hydroxy-4-phenylaminopyrrolidine hydrochloride | 1.52 g | Cl.OC1CNCC1NC1=CC=CC=C1 | InChI=1S/C10H14N2O.ClH/c13-10-7-11-6-9(10)12-8-4-2-1-3-5-8;/h1-5,9-13H,6-7H2;1H
